US04322429
4-(4-(TRIFLUOROMETHYL)PHENYL)-5-AMINOISOXAZOLE
3-Dimethylamino-2-(4-(trifluoromethyl)phenyl)-acrylonitrile (2.5 g), and NH2OH.HCl (1.5 g) were refluxed in ethanol for 2 hours. After evaporation of the solvent, water was added and the final product was filtered, recrystallized from methylene chloride, and identified by NMR analysis.

reactant | 3-Dimethylamino-2-(4-(trifluoromethyl)phenyl)-acrylonitrile | 2.5 g | CN(C=C(C#N)C1=CC=C(C=C1)C(F)(F)F)C | C12H11F3N2
reactant | NH2OH.HCl | 1.5 g | NO.Cl
solvent | ethanol | C(C)O | C2H6O
product | 4-(4-(TRIFLUOROMETHYL)PHENYL)-5-AMINOISOXAZOLE | FC(C1=CC=C(C=C1)C=1C=NOC1N)(F)F | C10H7F3N2O
